US05703074
2 g (0.0157 mol) of oxalyl chloride dissolved in 10 ml of CHCl3 are placed in a 100 ml single-necked flask. After having brought the mixture to 0° C. with an ice bath, 3.9 g (0.0105 mol) of 2,3-dimethyl-4-(3-p-methylphenylpropyl)-5-(4-carboxy-3,3-dimethylbutyl)thiophene (see above, paragraph B of the synthesis of the starting materials) are added. The reaction mixture is then stirred at room temperature and subsequently at 50° C. until the evolution of gas has ceased. The solvent is distilled off at a temperature below 50° C. The acid chloride prepared above dissolved in 60 ml of ether, and 1.82 g (0.021 mol) of morpholine dissolved in 60 ml of ether, are simultaneously poured into a 500 ml three-necked flask while stirring. The morpholinium hydrochloride precipitates instantaneously. After one hour's stirring, the solid is removed by filtration. The filtrate is washed with water, dried over MgSO4, rendered colourless with carbon black and concentrated to dryness. The crude product obtained is purified by chromatography on silica (eluant: CH2Cl2 /CH3COOC2H5 -95/5, then CH2Cl2 /CH3OH-98/2). 3.31 g of 2,3-dimethyl-4-3-p-methylphenylpropyl)-5-(4-morpholinocarbonyl-3,3-dimethylbutyl)thiophene are obtained in the form of a colourless oil, yield: 72%.

reactant | oxalyl chloride | 0.0157 mol, 2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,3-dimethyl-4-(3-p-methylphenylpropyl)-5-(4-carboxy-3,3-dimethylbutyl)thiophene | 0.0105 mol, 3.9 g | CC=1SC(=C(C1C)CCCC1=CC=C(C=C1)C)CCC(CC(=O)O)(C)C | C23H32O2S
reactant | morpholine | 0.021 mol, 1.82 g | N1CCOCC1 | C4H9NO
solvent | CHCl3 | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ether | 60 ml | CCOCC | C4H10O
solvent | ether | 60 ml | CCOCC | C4H10O
product | 5-(4-morpholinocarbonyl-3,3-dimethylbutyl)thiophene | yield: 72% | O1CCN(CC1)C(=O)CC(CCC1=CC=CS1)(C)C | C15H23NO2S
